US04517187
A solution of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-nitrophenyl)-2H-pyrazino[2,1-a)isoquinoline (5.2 g, 0.014 m) in methanol (500 ml), water (100 ml) and conc HCl (5 ml) was hydrogenated on a Parr apparatus over 2.0 g of palladium on carbon catalyst of 40 psi for 1 hour. The catalyst was removed by filtration and the solvents evaporated to a solid residue. This was dissolved in water (500 ml), basified to pH 11 with 50% NaOH, and extracted with ether (3×200 ml). The extracts were dried over MgSO4 and evaporated to an oil, 4.04 g. This crude product was purified by chromatography on silica gel with a Prep 500 HPLC, eluting with 2% ammoniated methanol/chloroform. Pure fractions were combined and evaporated to give an oil, 1.12 g. This was dissolved in methanol (30 ml) and acidified with HCl gas. Upon standing, a white solid crystallized, which was collected by filtration and vacuum dried at 95% for 24 hours to give 1.08 g of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-aminophenyl)-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 274°-276°.

reactant | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-nitrophenyl)-2H-pyrazino[2,1-a)isoquinoline | 5.2 g | CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=C(C=C2)[N+](=O)[O-])CC1 | C19H21N3O2
reactant | HCl | 5 ml | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-aminophenyl)-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 1.08 g | Cl.Cl.CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=C(C=C2)N)CC1 | InChI=1S/C19H23N3.2ClH/c1-21-10-11-22-12-18(14-6-8-15(20)9-7-14)16-4-2-3-5-17(16)19(22)13-21;;/h2-9,18-19H,10-13,20H2,1H3;2*1H/t18-,19-;;/m0../s1
